US04647565
(i) 1-Methyl-4-[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl-methoxy]piperidine
Reaction of 2-chlorobenzaldehyde, ethyl 4-(1-methylpiperid-4-yloxy)acetoacetate and methyl 3-aminocrotonate according to the method of Example 22(ii) gave the title compound which was used directly in the next stage.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ethyl 4-(1-methylpiperid-4-yloxy)acetoacetate | CN1CCC(CC1)OCC(CC(=O)OCC)=O | C12H21NO4
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
product | 1-Methyl-4-[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl-methoxy]piperidine | CN1CCC(CC1)OCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C24H31ClN2O5
